US08217035B2
In an aluminum foil-covered flask in a darkened hood, 2-amino-isonicotinonitrile TFA salt (125 mg, 0.54 mmol) was dissolved in acetonitrile (3.5 mL). Solid N-bromosuccinimide (89.2 mg, 0.501 mmol) was added to the stirred solution in one portion at RT. The reaction solution was stirred at room temperature in darkness for 90 minutes. After evaporation of the solvent, the crude material was further purified by silica gel chromatography to give 2-amino-5-bromo-isonicotinonitrile (53 mg, 49%). LC/MS (m/z): 197.9 (MH+), Rt 2.92 minutes.

reactant | 2-amino-isonicotinonitrile TFA salt | 0.54 mmol, 125 mg | OC(=O)C(F)(F)F.NC=1C=C(C#N)C=CN1
reactant | N-bromosuccinimide | 0.501 mmol, 89.2 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 2-amino-5-bromo-isonicotinonitrile | 53 mg, 49% | NC=1C=C(C#N)C(=CN1)Br | C6H4BrN3
